US09340556B2
To Dowtherm A (100 mL) heated at 250° C. was added diethyl 2-(((2,3-dimethoxyphenyl)amino)methylene)malonate (48 g, 148 mmol). The mixture was stirred at 250° C. for 1 h. LCMS indicated completion of the reaction. The reaction mixture was allowed to cool a bit and was then added to cold hexane, the precipitates were collected by filtration, washed with hexane and then allowed to dry in the air to afford ethyl 7,8-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate (35 g, 126 mmol, 85% yield) as brown solid. LCMS: (M+H)+: 278.2.

reactant | Dowtherm A | 100 mL | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
reactant | diethyl 2-(((2,3-dimethoxyphenyl)amino)methylene)malonate | 148 mmol, 48 g | COC1=C(C=CC=C1OC)NC=C(C(=O)OCC)C(=O)OCC | C16H21NO6
solvent | hexane | CCCCCC | C6H14
product | ethyl 7,8-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate | 126 mmol, 35 g, 85% yield | COC1=CC=C2C(C(=CNC2=C1OC)C(=O)OCC)=O | C14H15NO5
